US09278938B2
To glucosamine hydrochloride (200 g, 0.928 mol) were added water (300 mL) and ammonium thiocyanate (212 g, 2.78 mol, 3.0 equivalents) at 25° C., and the mixture was stirred at 80 to 89° C. for 8 hr. The reaction mixture was allowed to cool to 60° C., water (300 mL) and seed crystals were added thereto, and the mixture was stirred at 25 to 40° C. for 15 hr. The crystals were collected by filtration, washed twice with water (100 mL), and vacuum-dried (50° C.) to a constant amount to give (1R,2S,3R)-1-(2-sulfanyl-1H-imidazol-4-yl)butane-1,2,3,4-tetraol (101.4 g). yield 50%.

reactant | glucosamine hydrochloride | 0.928 mol, 200 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | ammonium thiocyanate | 2.78 mol, 212 g, 3.0 equivalents | [S-]C#N.[NH4+]
solvent | water | 300 mL | O | H2O
solvent | water | 300 mL | O | H2O
product | (1R,2S,3R)-1-(2-sulfanyl-1H-imidazol-4-yl)butane-1,2,3,4-tetraol | 101.4 g, yield 50% | SC=1NC=C(N1)[C@H]([C@@H]([C@@H](CO)O)O)O | C7H12N2O4S
